US07642249B2
To a solution of 2-(3-bromo-phenyl)-2-methyl-propionic acid (2.18 mmol) in anhydrous ether (20 mL) is added tert-butyl lithium (1.7 M in pentane, 5.4 mL, 9.16 mmol) dropwise at −78° C. and this mixture is stirred for 30 minutes treated with tributyl borate (2.34 mL, 8.72 mmol). The reaction mixture is allowed to warm up to room temperature, stirred for 15 hours, diluted with ether, and quenched with 1 M H3PO4. After stirring for 30 minutes the ether layer is separated and extracted three times with 2 N NaOH (20 mL). The combined NaOH extracts are acidified with 6 N HCl to pH=1 and extracted three times with ether (50 mL). The combined organic extracts are washed with brine, dried over sodium sulfate and concentrated to afford 3-(1-carboxy-1-methyl-ethyl)-phenyl boronic acid, which is used without further purification. MS: 209 (M+H).

reactant | 2-(3-bromo-phenyl)-2-methyl-propionic acid | 2.18 mmol | BrC=1C=C(C=CC1)C(C(=O)O)(C)C | C10H11BrO2
reactant | tert-butyl lithium | 9.16 mmol, 1.7 M, 5.4 mL | C(C)(C)(C)[Li]
reactant | tributyl borate | 8.72 mmol, 2.34 mL | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
solvent | ether | 20 mL | CCOCC | C4H10O
product | 3-(1-carboxy-1-methyl-ethyl)-phenyl boronic acid | C(=O)(O)C(C)(C)C=1C=C(C=CC1)B(O)O | C10H13BO4
